US08048899B2
To a solution of 1.9 g (6.7 mmol) of toluene-4-sulfonic acid 2-(tetrahydro-pyran-4-yl)-ethyl ester in ethanol (20 mL) are added 1.4 g (26.8 mmol) of sodium methoxide, followed by 1.27 g (6.7 mmol) of 2-acetylsulfanyl-2-methyl-propionic acid ethyl ester. The reaction mixture is heated in a microwave at 130° C. for 0.5 h. The solvent is removed under reduced pressure. The residue is partitioned between saturated aqueous NaHCO3 solution (25 mL) and DCM (25 mL). The layers are separated and the aqueous phase extracted with DCM (2×25 mL). The combined organic extracts are dried over Na2SO4, filtered and the solvent is removed under reduced pressure to afford 1.9 g of 2-methyl-2-[2-(tetrahydro-pyran-4-yl)-ethylsulfanyl]-propionic acid ethyl ester. Yield: 100%; ES-MS: m/z 261 [M+H]; 1H NMR (250 MHz, CHLOROFORM-d) δ ppm 1.15-1.38 (5H, m), 1.42-1.70 (12H, m), 2.59-2.71 (1H, m), 3.37 (2H, td, J=11.73, 1.98 Hz), 3.95 (2H, ddd, J=11.04, 3.88, 0.91 Hz), 4.18 (2H, q, J=7.16 Hz)

reactant | toluene-4-sulfonic acid 2-(tetrahydro-pyran-4-yl)-ethyl ester | 6.7 mmol, 1.9 g | O1CCC(CC1)CCOS(=O)(=O)C1=CC=C(C=C1)C | C14H20O4S
reactant | sodium methoxide | 26.8 mmol, 1.4 g | C[O-].[Na+]
reactant | 2-acetylsulfanyl-2-methyl-propionic acid ethyl ester | 6.7 mmol, 1.27 g | C(C)OC(C(C)(C)SC(C)=O)=O | C8H14O3S
solvent | ethanol | 20 mL | C(C)O | C2H6O
product | 2-methyl-2-[2-(tetrahydro-pyran-4-yl)-ethylsulfanyl]-propionic acid ethyl ester | 1.9 g, Yield: 100% | C(C)OC(C(C)(SCCC1CCOCC1)C)=O | C13H24O3S
